US06706738B2
Ethyl (2-o-tolylamino-3H-benzimidazol-5-yl)acetate
A mixture of ethyl 3,4-diaminophenylacetate (5.8 g, prepared according to the procedure of Mederski et al, Bioorg Med Chem Left, 1998, 8, pages 17-22) and o-tolylisothiocyanate (4.9 g) in ethanol (100 mL) was kept at room temperature overnight then treated with diisopropylcarbodiimide (7.6 g). The mixture was stirred at reflux for 5 hours then evaporated. The residue was subjected to flash chromatography on silica eluting with a mixture of 10% methanol and ether (1:9, v/v) to give the title compound (5.2 g) as a yellow gum.

reactant | ethyl 3,4-diaminophenylacetate | NC=1C=C(C=CC1N)CC(=O)OCC | C10H14N2O2
reactant | o-tolylisothiocyanate | 4.9 g | C=1(C(=CC=CC1)N=C=S)C | C8H7NS
reactant | diisopropylcarbodiimide | 7.6 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl (2-o-tolylamino-3H-benzimidazol-5-yl)acetate | 5.2 g | C1(=C(C=CC=C1)NC=1NC2=C(N1)C=CC(=C2)CC(=O)OCC)C | C18H19N3O2
